US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-1-acetylhexahydro-1H-azepin-3-yl]-1-piperazinecarboxamide
As described for example 78, (3R)-1-acetylhexahydro-1H-azepin-3-amine, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 445 (M++1). 1H NMR (CDCl3) δ 7.70 (d, 1H), 7.60 (s, 1H), 7.15 (d, 1H), 6.02 (s, 1H), 4.70 (s, 2H), 4.22 (d, 1H), 4.10 (m, 1H), 3.92 (m, 1H), 3.60 (m, 4H), 3.10 (m, 6H), 2.25 (m, 1H), 2.15 (s, 3H), 1.60–1.90 (m, 3H), 1.30–1.40 (m, 2H).

reactant | (3R)-1-acetylhexahydro-1H-azepin-3-amine | C(C)(=O)N1C[C@@H](CCCC1)N | C8H16N2O
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-1-acetylhexahydro-1H-azepin-3-yl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1CN(CCCC1)C(C)=O)Cl | C22H29ClN6O2
